US07956050B2
Preparation of (+/−)-6-methoxy-2-methyl-5-phenyl-2,3,4,5-tetrahydro-1H-benzo[c]azepine, fumarate salt
To a mixture of (3-methoxybenzyl)methylamine (3.02 g, 20 mmol) and cesium carbonate (7.82 g, 24 mmol) in DMF (50 mL) was added cinnamyl bromide (4.47 g, 22 mmol). The reaction mixture was stirred at room temperature for 15 hours. The reaction mixture was diluted with water and extracted with 1:1 hexanes/ethyl acetate (3×). The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated to provide the desired product (3.1 g, 58%): 1H NMR (CDCl3, 500 MHz) δ 7.39-7.37 (m, 2H), 7.32-7.29 (m, 2H), 7.23-7.20 (m, 2H), 6.93-6.91 (m, 2H), 6.81-6.78 (m, 1H), 6.54 (d, J=15.9 Hz, 1H), 6.31 (dt, J=15.9, 6.6 Hz, 1H), 3.81 (s, 3H), 3.52 (s, 2H), 3.19 (dd, J=6.6, 1.2 Hz, 2H), 2.25 (s, 3H); ESI MS m/z=268 [M+H]+. This crude product was used in the next step without further purification.

reactant | (3-methoxybenzyl)methylamine | 20 mmol, 3.02 g | COC=1C=C(CCN)C=CC1 | C9H13NO
reactant | cesium carbonate | 24 mmol, 7.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cinnamyl bromide | 22 mmol, 4.47 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (+/−)-6-methoxy-2-methyl-5-phenyl-2,3,4,5-tetrahydro-1H-benzo[c]azepine, fumarate salt | 3.1 g, 58% | C(\C=C\C(=O)O)(=O)O.COC1=CC=CC=2CN(CCC(C21)C2=CC=CC=C2)C | InChI=1S/C18H21NO.C4H4O4/c1-19-12-11-16(14-7-4-3-5-8-14)18-15(13-19)9-6-10-17(18)20-2;5-3(6)1-2-4(7)8/h3-10,16H,11-13H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
